US07662974B2
20 mL of THF and 1.23 mL (3.14 mmol, 2 eq) of diisopropylethylamine were added to 2 g (3.523 mmol) of 6-[1,3-dihydroxy-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl-2-naphtamide. 20 mL of THF was further added. 0.35 mL (4.58 mmol, 1.3 eq) of methylsulfonyl chloride was added dropwise at 2˜3° C., and the mixture was stirred at 2˜3° C. for 25 minutes. 16 mL of dimethyl sulfoxide was added dropwise at 2˜3° C., and the mixture was stirred at 0˜3° C. for 45 minutes. 0.2 mL of methylsulfonyl chloride and 0.5 mL of diisopropylethylamine were added at 0˜3° C., and the mixture was stirred at 0˜3° C. for 20 minutes. 4 mL of water was added dropwise at 0˜8° C., and the layers were separated. The aqueous layer was re-extracted with 10 mL of ethyl acetate two times, the organic layers were combined, and washed with 4 mL of an aqueous saturated sodium chloride solution two times. The material was dried with magnesium sulfate, and concentrated under reduced pressure. The concentration residue was dissolved in 15 mL of acetonitrile, and the solution was stirred at 60˜63° C. for 20 minutes. To the reaction solution were added 4.5 mL of methanol and 1.23 mL (3.14 mmol, 2 eq) of diisopropylethylamine. The mixture was stirred at 60˜63° C. for 2 hours. After cooled to 25° C., 30 mL of an aqueous saturated ammonium chloride solution and 40 mL of ethyl acetate were added, and the layers were separated. The organic layer was back extracted with 10 mL of 0.5N hydrochloric acid-aqueous saturated ammonium chloride solution. The aqueous layers were combined, a pH was adjusted to 8 with a 30% aqueous sodium hydroxide solution, followed by stirring at 25° C. for 18 hours and 15 minutes, and at 0˜5° C. for 1 hour and 25 minutes. Crystals were filtered, and washed with water. Vacuum drying (50° C.) to a constant weight afforded 0.87 g of 6-[7-hydroxy-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl]-N-methyl-2-naphthamide (yield 80%).

reactant | diisopropylethylamine | 3.14 mmol, 1.23 mL, 2 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-[1,3-dihydroxy-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl-2-naphtamide | 3.523 mmol, 2 g | OC(CCO)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)NC | C37H33N3O3
reactant | methylsulfonyl chloride | 4.58 mmol, 0.35 mL, 1.3 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | methylsulfonyl chloride | 0.2 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diisopropylethylamine | 3.14 mmol, 1.23 mL, 2 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4.5 mL | CO | CH4O
solvent | water | 4 mL | O | H2O
solvent | dimethyl sulfoxide | 16 mL | CS(=O)C | C2H6OS
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-[7-hydroxy-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl]-N-methyl-2-naphthamide | 0.87 g, yield 80% | OC1(CCN2C=NC=C21)C=2C=C1C=CC(=CC1=CC2)C(=O)NC | C18H17N3O2
